US07230031B2
[2-Benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy)benzyl]triphenylphosphonium chloride
A suspension of 4-(4-benzyloxy-3-chloromethylphenoxy)-5-methyl-7-nitroindane (2.04 g) and triphenylphosphine (1.39 g) in toluene (50 mL) was heated under reflux for 12 hours. The reaction mixture was allowed to cool to room temperature. Precipitate was collected by filtration, and washed with diethyl ether to give the title compound (2.50 g).

reactant | 4-(4-benzyloxy-3-chloromethylphenoxy)-5-methyl-7-nitroindane | 2.04 g | C(C1=CC=CC=C1)OC1=C(C=C(OC2=C3CCCC3=C(C=C2C)[N+](=O)[O-])C=C1)CCl | C24H22ClNO4
reactant | triphenylphosphine | 1.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | [2-Benzyloxy-5-(5-methyl-7-nitroindan-4-yloxy)benzyl]triphenylphosphonium chloride | 2.50 g | [Cl-].C(C1=CC=CC=C1)OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | InChI=1S/C42H37NO4P.ClH/c1-31-27-40(43(44)45)38-23-14-24-39(38)42(31)47-34-25-26-41(46-29-32-15-6-2-7-16-32)33(28-34)30-48(35-17-8-3-9-18-35,36-19-10-4-11-20-36)37-21-12-5-13-22-37;/h2-13,15-22,25-28H,14,23-24,29-30H2,1H3;1H/q+1;/p-1
